US08106064B2
(3-Cyano-5-methyl-phenyl)-(2,6-dichloro-5-isopropyl-pyrimidin-4-yl)-carbamic acid tert-butyl ester (469 mg, 1.113 mmol) was dissolved in methanol (4 mL) at room temperature. Sodium methoxide solution (25% in methanol, 1.18 g, 5.56 mmol) was added and the reaction was heated at 75° C. After 4 hours, the reaction was stopped by the evaporation of solvents. The crude material was purified via flash chromatography on silica gel (eluent: ethyl acetate in hexanes) to yield (3-Cyano-5-methyl-phenyl)-(2,6-dimethoxy-5-isopropyl-pyrimidin-4-yl)-carbamic acid tert-butyl ester (336.8 mg, 0.816 mmol). 1H (CDCl3): δ=7.36 (s, 1H), 7.31 (s, 1H), 7.20 (s, 1H), 4.02 (s, 3H), 3.92 (s, 3H), 3.01 (m, 1H), 2.32 (s, 3H), 1.41 (s, 9H), 1.20-1.10 (m, 6H) ppm.

reactant | (3-Cyano-5-methyl-phenyl)-(2,6-dichloro-5-isopropyl-pyrimidin-4-yl)-carbamic acid tert-butyl ester | 1.113 mmol, 469 mg | C(C)(C)(C)OC(N(C1=NC(=NC(=C1C(C)C)Cl)Cl)C1=CC(=CC(=C1)C)C#N)=O | C20H22Cl2N4O2
reactant | Sodium methoxide | 5.56 mmol, 1.18 g | C[O-].[Na+]
reactant | methanol | 4 mL | CO | CH4O
product | (3-Cyano-5-methyl-phenyl)-(2,6-dimethoxy-5-isopropyl-pyrimidin-4-yl)-carbamic acid tert-butyl ester | 0.816 mmol, 336.8 mg | C(C)(C)(C)OC(N(C1=NC(=NC(=C1C(C)C)OC)OC)C1=CC(=CC(=C1)C)C#N)=O | C22H28N4O4
